US04107308
4-(1-Piperazinyl)-imidazo[1,5-d]-as-triazine
A mixture of 6.5 gm. of 4-(methylthio)-imidazo[1,5-d]-as-triazine, 17.2 gm. of anhydrous piperazine and 120 ml. of toluene is reacted as described in Example 40 giving the desired product, m.p. 160°-165° C.

reactant | 4-(methylthio)-imidazo[1,5-d]-as-triazine | CSC1=NN=CC=2N1C=NC2 | C6H6N4S
reactant | piperazine | N1CCNCC1 | C4H10N2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 4-(1-Piperazinyl)-imidazo[1,5-d]-as-triazine | N1(CCNCC1)C1=NN=CC=2N1C=NC2 | C9H12N6
